US07365085B2
a) (3-(3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenylamine dihydrochloride
(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-carbamic acid tert-butyl ester, (0.51 g, 0.8 mmol) was stirred overnight at room temperature in a mixture methylene chloride (5 mL) and trifluoroacetic acid (0.5 mL). The solvents were removed in vacuo to yield the crude amine as an oil. The oil was diluted with ether, and 1 N HCl in Et2O was added to precipitate the HCl salt of the product. The title compound was isolated as a cream yellow powder, 0.53 g (100%). MS (ESI) 539 (M+H+).

reactant | (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-carbamic acid tert-butyl ester | 0.8 mmol, 0.51 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C36H38ClF3N2O3
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ether | CCOCC | C4H10O
solvent | HCl | 1 N | Cl | ClH
product | 3-(3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenylamine dihydrochloride | Cl.Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)N)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C31H30ClF3N2O.2ClH/c32-30-25(14-7-17-29(30)31(33,34)35)21-37(18-9-19-38-27-16-8-15-26(36)20-27)22-28(23-10-3-1-4-11-23)24-12-5-2-6-13-24;;/h1-8,10-17,20,28H,9,18-19,21-22,36H2;2*1H
